US08557809B2
Step H: Preparation of tert-butyl (1-(2-([1,2,4]triazolo[4,3-a]pyridin-3-yl)-6-fluoro quinolin-8-yl)piperidin-4-yl)methylcarbamate
2-([1,2,4]Triazolo[4,3-a]pyridin-3-yl)-8-bromo-6-fluoroquinoline (70 mg, 0.20 mmol), tert-butyl piperidin-4-ylmethylcarbamate (56.8 mg, 0.27 mmol), and Cs2CO3 (66 mg, 0.20 mmol) were weighed into a 5.0 mL reaction vial and suspended in 2.0 mL of anhydrous toluene. The solution was purged with Argon followed by addition of Pd2 dba3 (93.4 mg, 0.10 mmol), Binap-rac (12.7 mg, 0.020 mmol), then heated to 95° C. for 48 hours. The reaction was cooled to ambient temperature, followed by filtration through a celite plug to remove catalyst. The crude reaction was concentrated in vacuo and used without further purification (97 mg, 97% yield). MS APCI (+) m/z 477 (M+1) detected.

reactant | 2-([1,2,4]Triazolo[4,3-a]pyridin-3-yl)-8-bromo-6-fluoroquinoline | 0.20 mmol, 70 mg | N=1N=C(N2C1C=CC=C2)C2=NC1=C(C=C(C=C1C=C2)F)Br | C15H8BrFN4
reactant | tert-butyl piperidin-4-ylmethylcarbamate | 0.27 mmol, 56.8 mg | N1CCC(CC1)CNC(OC(C)(C)C)=O | C11H22N2O2
reactant | Cs2CO3 | 0.20 mmol, 66 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | toluene | 2.0 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2 dba3 | 0.10 mmol, 93.4 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | tert-butyl (1-(2-([1,2,4]triazolo[4,3-a]pyridin-3-yl)-6-fluoro quinolin-8-yl)piperidin-4-yl)methylcarbamate | 97% yield | N=1N=C(N2C1C=CC=C2)C2=NC1=C(C=C(C=C1C=C2)F)N2CCC(CC2)CNC(OC(C)(C)C)=O | C26H29FN6O2
